### ISSUE TITLE
Support simple functions such as  `sqrt` and `abs`

### ISSUE THREAD

**Issue by yangky11** [yangky11/lean-smt#4]

**Comment by JC-Chen1** [comment]
Support for `Abs`, available in https://github.com/yangky11/lean-smt/commit/6edb4d8b48380f52750d58751cf8cdbec3791ef8

Specifically, I add correct translating process for `Abs`.

Example,

```lean
theorem amc12_2000_p5 (x p : ℝ) (h₀ : x < 2) (h₁ : abs (x - 2) = p) : x - p = 2 - 2 * p := by
  smt!
```

```
query:
(declare-const p Real)
(declare-const x Real)
(assert (= (abs (+ x (- 2))) p))
(assert (< x 2))
(assert (not (= (+ x (- p)) (+ 2 (- (* 2 p))))))
(check-sat)

result: unsat
```

**Comment by JC-Chen1** [comment]
Support for `Real.sqrt`, available in https://github.com/yangky11/lean-smt/commit/dbd4668c1eb45a800589ba92e02854c91d72d04c

My goal is to self-define `Real.sqrt` and then provide sufficient properties corresponding to it. 
More specifically, I want to encode `Real.sqrt` in the following format.
```
(declare-fun Real.sqrt (Real) Real)
(assert (forall ((__sqrt_x Real)) (= (Real.sqrt (^ __sqrt_x 2)) (abs __sqrt_x))))
(assert (forall ((__sqrt_x Real)) (=> (>= __sqrt_x 0) (and (>= (Real.sqrt __sqrt_x) 0) (= (^ (Real.sqrt __sqrt_x) 2) __sqrt_x)))))
```

For implementation details, I modified the `Query.lean` file, which play a key role in building dependency graph.
I defined some special dependency operation when detecting `Real.sqrt`.

Example,
```lean
theorem algebra_amgm_sqrtxymulxmyeqxpy_xpygeq4 (x y : ℝ) (h₀ : 0 < x ∧ 0 < y) (h₁ : y ≤ x)
    (h₂ : Real.sqrt (x * y) * (x - y) = x + y) : x + y ≥ 4 := by smt!
```

```
(declare-fun Real.sqrt (Real) Real)
(assert (forall ((__sqrt_x Real)) (= (Real.sqrt (^ __sqrt_x 2)) (abs __sqrt_x))))
(assert (forall ((__sqrt_x Real)) (=> (>= __sqrt_x 0) (and (>= (Real.sqrt __sqrt_x) 0) (= (^ (Real.sqrt __sqrt_x) 2) __sqrt_x)))))
(declare-const y Real)
(declare-const x Real)
(assert (= (* (Real.sqrt (* x y)) (+ x (- y))) (+ x y)))
(assert (<= y x))
(assert (and (< 0 x) (< 0 y)))
(assert (not (>= (+ x y) 4)))
(check-sat)

result: unsat
```

More,
We can also support `sqrt` in the following way,

```
Real.sqrt 2 -> define z : Real, z * z == 2
```

I found that this method is more powerful, but the encoding process could be more difficult to implement. So I make some compromises.

**Comment by JC-Chen1** [comment]
Next step, I plan to encode other simple oprations like Int.floor and Int.ceil.

Meanwhile, I will try to find a way to support `sqrt` in the more powerful strategy.

**Comment by yangky11** [comment]
`abs` is a built-in function supported by SMT solvers?

**Comment by JC-Chen1** [comment]
yes

**Comment by yangky11** [comment]
> this method is more powerful, but the encoding process could be more difficult to implement

What's the difficulty here? Is it because we have to introduce new variables into the local context?

**Comment by JC-Chen1** [comment]
Yes, we have to introduce new variables in this way.

**Comment by yangky11** [comment]
I see. You can try to do that first, and we can discuss more tomorrow.

**Comment by yangky11** [comment]
BTW, why do you think this encoding strategy is more powerful than the current way of handling `sqrt`? Do you have an example that cannot be handled by the current way but can be handled by the new encoding strategy?

**Comment by JC-Chen1** [comment]
Yes, I found a theorem that can be resolved by `z * z == 2` but not in the `self-define` way.

```
theorem imo_2006_p6 (a b c : ℝ) :
    a * b * (a ^ 2 - b ^ 2) + b * c * (b ^ 2 - c ^ 2) + c * a * (c ^ 2 - a ^ 2) ≤
      9 * Real.sqrt 2 / 32 * (a ^ 2 + b ^ 2 + c ^ 2) ^ 2 := by smt!
```
When using `self-define` strategy, smt solvers output `result: unknown`

But when using `z * z == 2` strategy, smt solvers will be able to resolve it. 

I didn't have the accurate number of this kind of phenomenon. But I think this just occupy a small portion based on my current obsearvation.

**Comment by yangky11** [comment]
OK, then it makes sense to try the new strategy.

**Comment by JC-Chen1** [comment]
Yes, `z * z == 2` would be a better way.
